US04382925
(b) E-5-(2-carboxyvinyl)-2'-deoxycytidine (formula 4)
Carbethoxyvinyldeoxycytidine (325 mg, 1mmol) is suspended in 0.5M NaOH solution (40 ml) and stirred at room temperature for 2 hrs. The clear solution is neutralised by addition of Dowex-50H+ -form to pH 7 and filtered. This solution is immediately used for the preparation of E-5-(2-bromovinyl)-2'-deoxycytidine.

reactant | Carbethoxyvinyldeoxycytidine | 1mmol, 325 mg | C(=O)(OCC)C=C[C@@]1(C[C@H](O)[C@@H](CO)O1)N1C(=O)N=C(N)C=C1 | C14H19N3O6
reactant | NaOH | 0.5M, 40 ml | [OH-].[Na+]
product | E-5-(2-carboxyvinyl)-2'-deoxycytidine | C(=O)(O)/C=C/C=1C(=NC(N([C@H]2C[C@H](O)[C@@H](CO)O2)C1)=O)N | C12H15N3O6
